US07700625B2
Acetic anhydride (3.06 g, 30.0 mmol) was added to methyl 2,4-dihydroxybenzoate (5.04 g, 30.0 mmol) in boron trifluoride diethyl etherate (7.6 ml) and the mixture was stirred and held at reflux for 3 hours and then allowed to cool to room temperature. Water (80 ml) was added and the mixture stirred at room temperature for 30 minutes. The resulting yellow solid was removed by filtration and sucked as dry as possible under vacuum. The solid was dissolved in dichloromethane and was washed with water, the organic layer was separated and the solvent removed in vacuo to afford methyl 5-acetyl-2,4-dihydroxybenzoate as a bright yellow solid (2.62 g, 42%) which was used without further purification. 1H NMR (DMSO-d6) 12.58 (1H, s), 11.22 (1H, s), 8.33 (1H, s), 6.45 (1H, s), 3.90 (3H, s), 2.62 (3H, s). MS: [M+H]+ 211.

reactant | Acetic anhydride | 30.0 mmol, 3.06 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl 2,4-dihydroxybenzoate | 30.0 mmol, 5.04 g | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | Water | 80 ml | O | H2O
solvent | boron trifluoride diethyl etherate | 7.6 ml | B(F)(F)F.CCOCC
product | methyl 5-acetyl-2,4-dihydroxybenzoate | 2.62 g, 42% | C(C)(=O)C=1C(=CC(=C(C(=O)OC)C1)O)O | C10H10O5
